US09359367B2
Step 2: (R)-3-(piperazin-1-yl)cyclopent-1-enecarbonitrile
To a solution of (R)-tert-butyl 4-(3-cyanocyclopent-2-en-1-yl)piperazine-1-carboxylate (13 g, 46.9 mmol) in dry dichloromethane (30 ml) was added slowly hydrochloric acid 1,4 dioxane (100 ml, 4M solution) in a drop wise manner 0° C. The reaction mixture was stirred at 25° C. for 3 h. The progress of the reaction was monitored by TLC. The reaction mixture was then concentrated under reduced pressure. The residue was diluted with dichloromethane (100 ml) and treated with methanolic ammonia (50 ml, 7M solution) and stirred for 30 minutes. The reaction mixture was then evaporated under reduced pressure to obtain crude product which was purified by flash column chromatography over silica gel (100-200 mesh) using 10% methanol in dichloromethane as an eluent to obtain title compound ((7 g, 84%).

reactant | (R)-tert-butyl 4-(3-cyanocyclopent-2-en-1-yl)piperazine-1-carboxylate | 46.9 mmol, 13 g | C(#N)C1=C[C@@H](CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H23N3O2
reactant | hydrochloric acid 1,4 dioxane | 4M, 100 ml | O1CCOCC1.Cl
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (R)-3-(piperazin-1-yl)cyclopent-1-enecarbonitrile | N1(CCNCC1)[C@H]1C=C(CC1)C#N | C10H15N3
